US09255110B2
To a solution of 0.050 g (0.233 mmole) 2-chloro-thieno[3,2-d]pyrimidine-7-carboxylic acid, 0.0686 g (0.466 mmole) of 1-methyl-1H-benzol[d]imidazol-4-amine, 0.122 mL (0.699 mmole) of N,N-diisopropylethylamine and 1.55 mL of dimethylformamide was added 0.111 g (0.256 mmole) of O-(benzotriazol-1-yl)-N,N,N′,N′-bis(tetramethylene)uronium hexafluorophosphate. The mixture was stirred at room temperature for overnight. Water and dichloromethane were added. The aqueous layer was washed three times with dichloromethane. The combined organic layer was washed with aqueous sodium carbonate, brine, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. Purification by silica gel chromatography, eluting with hexanes-ethyl acetate (gradient 50:50-0:100) gave 0.042 g of 2-chloro-thieno[3,2-d]pyrimidine-7-carboxylic acid (1-methyl-1H-benzoimidazol-4-yl)-amide as a yellow solid.

reactant | 2-chloro-thieno[3,2-d]pyrimidine-7-carboxylic acid | 0.233 mmole, 0.050 g | ClC=1N=CC2=C(N1)C(=CS2)C(=O)O | C7H3ClN2O2S
reactant | N,N-diisopropylethylamine | 0.699 mmole, 0.122 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | dimethylformamide | 1.55 mL | CN(C=O)C | C3H7NO
reactant | O-(benzotriazol-1-yl)-N,N,N′,N′-bis(tetramethylene)uronium hexafluorophosphate | 0.256 mmole, 0.111 g | C1CCN(C1)C(=[N+]2CCCC2)ON3C4=CC=CC=C4N=N3.F[P-](F)(F)(F)(F)F
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | Water | O | H2O
product | 2-chloro-thieno[3,2-d]pyrimidine-7-carboxylic acid (1-methyl-1H-benzoimidazol-4-yl)-amide | 0.042 g | CN1C=NC2=C1C=CC=C2NC(=O)C2=CSC1=C2N=C(N=C1)Cl | C15H10ClN5OS
